US05753679
0.33 g (0.0015 mol) of 1-benzylpiperidine-4-carboxylic acid was dissolved in 5 ml of oxalyl chloride for 2 hrs. The excess oxalyl chloride was distilled off. The residue was taken up twice in toluene and concentrated each time. 0.355 g (99%) of 1-benzyl-piperidine-4-carboxylic acid chloride was obtained as a pale beige solid. This was dissolved in 20 ml of toluene, treated with 0.3 ml (0.00224 mol) of triethylamine and 0.184 g (0.00195 mol) of phenol and boiled at reflux for 18 hrs. After removal of the solvent the residue was chromatographed on silica gel with ether/hexane (1:2.5→1:2) as the eluent. 0.315 g (71%) of phenyl 1-benzyl-piperidin-4-carboxylate was obtained as a yellow oil. MS: me/e=296 (C9H22NO2+).

reactant | 1-benzylpiperidine-4-carboxylic acid | 0.0015 mol, 0.33 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
reactant | oxalyl chloride | 5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1-benzyl-piperidine-4-carboxylic acid chloride | 0.355 g, 99% | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)Cl | C13H16ClNO
